US06344449B1
b) 4-[2-(acetylamino)phenyl]-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-one
To a solution of 26.3 g (0.138 mol) of 4-amino1-(phenylmethyl)piperidine and 17.8 g (0.138 mol) of DIEA in 300 ml of dichloromethane was added dropwise a solution of 35.4 g (0.138 mol) of 1-[2-(acetylamino)phenyl]-2-bromoethanone in 150 ml of dichloromethane and the mixture was kept for a further 2 hours at room temperature. With external cooling with ice 13.5 g (0.20 mol) of sodium cyanate and 12 ml of glacial acetic acid were then added and the mixture was stirred overnight in a thawing ice bath. It was washed with water and saturated sodium hydrogen carbonate solution, dried over sodium sulphate and freed from solvent. The residue was triturated with 50 ml of ethyl acetate-methanol mixture (9/1 v/v), the resulting crystals were suction filtered, washed with ethyl acetate and dried in vacuo. 37.0 g (68.7% of theory) of colourless crystals were obtained, Rf=0.41 (eluant: dichloromethane/methanol 9/1 v/v)

reactant | 4-amino1-(phenylmethyl)piperidine | 0.138 mol, 26.3 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | DIEA | 0.138 mol, 17.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[2-(acetylamino)phenyl]-2-bromoethanone | 0.138 mol, 35.4 g | C(C)(=O)NC1=C(C=CC=C1)C(CBr)=O | C10H10BrNO2
reactant | sodium cyanate | [O-]C#N.[Na+]
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 4-[2-(acetylamino)phenyl]-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-one | C(C)(=O)NC1=C(C=CC=C1)C1=CC=CC=2N(C(NC21)=O)C2CCN(CC2)CC2=CC=CC=C2 | C27H28N4O2
